US07169780B2
Step 9: 2-{(2S,4R)-1-[(dimethylamino)(oxo)acetyl]-4-methoxypyrrolidin-2-yl}-N-(4-fluorobenzyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide
To N-(4-fluorobenzyl)-5-hydroxy-2-[(2S,4R)4-methoxypyrrolidin-2-yl]-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide, triethylamine (1 eq.) was added. The reaction mixture was cooled down to 0° C. and methyl chlorooxoacetate (3 eq.) was added. After 1 hour the reaction mixture was concentrated and a big excess of dimethylamine 2M in THF (30 eq.) was added The reaction mixture was concentrated and the desired compound was isolated by HPLC purification (Waters, Symmetry C18, 5 um, 19×50 mm eluting with water and acetonitrile containing 0.1% trifluoroacetic acid) as a 2:8 mixture of rotamers by NMR:

reactant | N-(4-fluorobenzyl)-5-hydroxy-2-[(2S,4R)4-methoxypyrrolidin-2-yl]-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)[C@H]2NC[C@@H](C2)OC)C=C1 | C18H21FN4O4
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | methyl chlorooxoacetate | 3 eq. | ClC(C(=O)OC)=O | C3H3ClO3
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | THF | 30 eq. | C1CCOC1 | C4H8O
product | 2-{(2S,4R)-1-[(dimethylamino)(oxo)acetyl]-4-methoxypyrrolidin-2-yl}-N-(4-fluorobenzyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | CN(C)C(C(=O)N1[C@@H](C[C@H](C1)OC)C=1N(C(C(=C(N1)C(=O)NCC1=CC=C(C=C1)F)O)=O)C)=O | C22H26FN5O6
